US05057504
To a solution of benzyl 3-(4-n-propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine-1-carboxylate (7.0 g.) in dry tetrahydrofuran (100 ml) under nitrogen, was added 5% palladium on carbon (0.63 g.) and the system was hydrogenated at atmospheric pressure. When the theoretical volume uptake (450 ml) had been achieved the system was purged with nitrogen and the mixture was filtered through celite. The solution was evaporated in vacuo. The resulting solid was recrystallised from hexane. 3-(4-n-Propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine (3.3 g.) was obtained as colourless crystals.

reactant | benzyl 3-(4-n-propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine-1-carboxylate | 7.0 g | C(CC)C12COC(OC1)(OC2)C2CN(CCC2)C(=O)OCC2=CC=CC=C2 | C21H29NO5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.63 g | [Pd] | Pd
product | 3-(4-n-Propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine | 3.3 g | C(CC)C12COC(OC1)(OC2)C2CNCCC2 | C13H23NO3
